data/polar.json
{"reaction_name": "Conjugate addition to an electron-poor quinone", "rsmi": "[C:3]1([Cl:32])=[C:4]([Cl:33])[C:6](=[O:14])[C:20]([C:35]#[N:37])=[C:21]([C:36]#[N:38])[C:5]1=[O:13].[N:1]1([c:7]2[c:28]([CH3:9])[cH:24][c:17]([CH3:15])[cH:27][c:31]2[CH3:12])[CH:23]=[CH:22][N:2]([c:8]2[c:29]([CH3:10])[cH:25][c:18]([CH3:16])[cH:26][c:30]2[CH3:11])[C:34]1=[CH2:19]>>[n+:1]1(-[c:7]2[c:28]([CH3:9])[cH:24][c:17]([CH3:15])[cH:27][c:31]2[CH3:12])[cH:23][cH:22][n:2](-[c:8]2[c:29]([CH3:10])[cH:25][c:18]([CH3:16])[cH:26][c:30]2[CH3:11])[c:34]1[CH2:19][C:20]1([C:35]#[N:37])[C:6](=[O:14])[C:4]([Cl:33])=[C:3]([Cl:32])[C:5]([O-:13])=[C:21]1[C:36]#[N:38]", "epd": [["LP-/Pi+", [1], [34, 1]], ["Pi-/Sigma+", [19, 34], [19, 20]], ["Pi-/Pi+", [20, 21], [21, 5]], ["Pi-/LP+", [5, 13], [13]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[N+:6](=[N-:11])=[N-:12].[O:1]=[S:5](=[O:2])([N:10]=[C:9]=[O:13])[c:15]1[cH:7][cH:3][c:14]([CH3:16])[cH:4][cH:8]1>>[O:1]=[S:5](=[O:2])([N-:10][C:9]([N-:11][N+:6]#[N:12])=[O:13])[c:15]1[cH:7][cH:3][c:14]([CH3:16])[cH:4][cH:8]1", "epd": [["LP-/Pi+", [12], [6, 12]], ["Pi-/Sigma+", [11, 6], [11, 9]], ["Pi-/LP+", [9, 10], [10]]]}
{"reaction_name": "Aza-Henry reaction", "rsmi": "[CH2-:4][N+:5]([O-:7])=[O:8].[CH:1](=[N:2][CH3:6])[CH3:3]>>[CH:1]([N-:2][CH3:6])([CH3:3])[CH2:4][N+:5]([O-:7])=[O:8]", "epd": [["LP-/Sigma+", [4], [1, 4]], ["Pi-/LP+", [1, 2], [2]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:7](=[N-:19])=[N-:20].[O:1]=[S:27](=[O:2])([c:14]1[cH:4][cH:10][c:18]([CH3:28])[cH:11][cH:5]1)[n:21]1[cH:13][c:16]([N+:15](=[O:6])[O-:8])[c:17]2[cH:9][cH:23][c:12]([N+:26](=[O:24])[O-:25])[cH:3][c:22]21>>[O:1]=[S:27](=[O:2])([c:14]1[cH:4][cH:10][c:18]([CH3:28])[cH:11][cH:5]1)[N:21]1[CH:13]([N-:19][N+:7]#[N:20])[C:16](=[N+:15]([O-:6])[O-:8])[c:17]2[cH:9][cH:23][c:12]([N+:26](=[O:24])[O-:25])[cH:3][c:22]21", "epd": [["LP-/Pi+", [20], [7, 20]], ["Pi-/Sigma+", [19, 7], [19, 13]], ["Pi-/Pi+", [13, 16], [16, 15]], ["Pi-/LP+", [15, 6], [6]]]}
{"reaction_name": "Silyl ether deprotection", "rsmi": "[CH3:2][Si:8]([CH3:3])([CH3:4])[O:5][CH2:7][CH3:6].[O:1]([H:9])[H:10]>>[O:1]([Si:8]([CH3:2])([CH3:3])[CH3:4])[H:10].[O:5]([CH2:7][CH3:6])[H:9]", "epd": [["LP-/Sigma+", [1], [1, 8]], ["Sigma-/LP+", [5, 8], [5]], ["LP-/Sigma+", [5], [5, 9]], ["Sigma-/LP+", [1, 9], [1]]]}
{"reaction_name": "Camphene rearrangement", "rsmi": "[CH2:1]1[C+:4]([CH3:2])[CH2:3][CH:7]([CH3:5])[CH2:6]1>>[CH2:1]1[C:4]([CH3:2])([CH3:5])[CH2:3][CH+:7][CH2:6]1", "epd": [["Sigma-/Sigma+", [5, 7], [4, 5]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH3:1][C:9](=[C:4]=[N-:14])[c:15]1[cH:17][cH:20][cH:23][cH:21][cH:18]1.[O:2]=[S:6](=[O:3])([C:8]([F:27])([F:28])[F:29])[c:24]1[cH:16][c:7]2[n+:10]([O-:5])[o:26][n:12][c:30]2[c:22]([N+:13]([O-:11])=[O:19])[cH:25]1>>[CH3:1][C:9]([C:4]#[N:14])([c:15]1[cH:17][cH:20][cH:23][cH:21][cH:18]1)[CH:16]1[c:7]2[n+:10]([O-:5])[o:26][n:12][c:30]2[C:22](=[N+:13]([O-:11])[O-:19])[CH:25]=[C:24]1[S:6](=[O:2])(=[O:3])[C:8]([F:27])([F:28])[F:29]", "epd": [["LP-/Pi+", [14], [4, 14]], ["Pi-/Sigma+", [9, 4], [9, 16]], ["Pi-/Pi+", [16, 24], [24, 25]], ["Pi-/Pi+", [25, 22], [22, 13]], ["Pi-/LP+", [13, 19], [19]]]}
{"reaction_name": "Lactone hydrolysis", "rsmi": "[O-:5][H:7].[O:1]=[C:2]1[O:4][CH2:3][CH2:6]1>>[O:1]=[C:2]([O-:5])[CH2:6][CH2:3][O:4][H:7]", "epd": [["LP-/Sigma+", [5], [2, 5]], ["Pi-/LP+", [1, 2], [1]], ["LP-/Pi+", [1], [1, 2]], ["Sigma-/LP+", [2, 4], [4]], ["LP-/Sigma+", [4], [4, 7]], ["Sigma-/LP+", [5, 7], [5]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[O-:5][N+:24]([O-:6])=[C:19]1[CH:18]=[CH:27][CH:16]=[CH:21][C:26]1=[O:13].[cH:1]1[cH:2][cH:12][cH:4][c:7]2[c:3]1[N+:20]([CH3:9])=[CH:11][C:10]2=[CH:8][c:17]1[cH:14][cH:22][cH:25][cH:23][cH:15]1>>[cH:1]1[cH:2][cH:12][cH:4][c:7]2[c:3]1[n:20]([CH3:9])[cH:11][c:10]2[CH:8]([O:13][c:26]1[c:19]([N+:24](=[O:5])[O-:6])[cH:18][cH:27][cH:16][cH:21]1)[c:17]1[cH:14][cH:22][cH:25][cH:23][cH:15]1", "epd": [["LP-/Pi+", [5], [24, 5]], ["Pi-/Pi+", [19, 24], [26, 19]], ["Pi-/Sigma+", [13, 26], [13, 8]], ["Pi-/Pi+", [8, 10], [10, 11]], ["Pi-/LP+", [11, 20], [20]]]}
{"reaction_name": "Oxonium or ammonium neutralization", "rsmi": "[Cl-:4].[NH2+:1]([CH3:3])[H:5].[OH-:2]>>[Cl-:4].[NH2:1][CH3:3].[OH:2][H:5]", "epd": [["LP-/Sigma+", [2], [2, 5]], ["Sigma-/LP+", [1, 5], [1]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[C:2]12=[N:4][CH2:8][CH2:17][CH2:15][N:9]1[c:5]1[c:12]([cH:3][cH:22][cH:16][cH:20]1)[S:10]2.[cH:1]1[cH:6][cH:18][c:14]([N+:11](=[CH2:13])[CH3:21])[cH:19][cH:7]1>>[cH:1]1[cH:6][cH:18][c:14]([N:11]([CH2:13][N:4]2[c:2]3[n+:9]([c:5]4[c:12]([cH:3][cH:22][cH:16][cH:20]4)[s:10]3)[CH2:15][CH2:17][CH2:8]2)[CH3:21])[cH:19][cH:7]1", "epd": [["LP-/Pi+", [9], [2, 9]], ["Pi-/Sigma+", [4, 2], [4, 13]], ["Pi-/LP+", [13, 11], [11]]]}
